US09422331B2
To a rt solution of tert-butyl(3S,4S)-1,5-diacetyl-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (413 mg, 1.03 mmol) in MeOH (10.3 ml) was added 1 M aq. sodium hydroxide (1.13 ml, 1.13 mmol), dropwise. The reaction was stirred for 30 min, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (144 mg, 39%) as a white solid. MS m/z 381 (MNa)+.

reactant | tert-butyl(3S,4S)-1,5-diacetyl-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 1.03 mmol, 413 mg | C(C)(=O)N1C2=C(N([C@H]([C@@H](C1=O)NC(OC(C)(C)C)=O)C)C(C)=O)C=C(C=C2)C#N | C20H24N4O5
reactant | sodium hydroxide | 1.13 mmol, 1 M, 1.13 ml | [OH-].[Na+]
solvent | MeOH | 10.3 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(2S,3S)-1-acetyl-8-cyano-2-methyl-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 144 mg, 39% | C(C)(=O)N1C2=C(NC([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)C=CC(=C2)C#N | C18H22N4O4
